US04261995
Twelve and three-tenths (12.3) of 3-(2,6-dichlorophenyl)glutaronitrile, prepared according to Preparation A, Part 1, is dissolved in a mixture of 70 ml of concentrated sulfuric acid and 3 ml of water. This solution is allowed to stand for 2 days at room temperature and then poured over crushed ice and is neutralized with ammonium hydroxide. The solid precipitate is collected, washed with water and dried under vacuum to give 13.8 g of 3-(2,6-dichlorophenyl)glutaramide, mp 221°-225°.

reactant | 3-(2,6-dichlorophenyl)glutaronitrile | ClC1=C(C(=CC=C1)Cl)C(CC#N)CC#N | C11H8Cl2N2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 3 ml | O | H2O
product | 3-(2,6-dichlorophenyl)glutaramide | 13.8 g | ClC1=C(C(=CC=C1)Cl)C(CC(=O)N)CC(=O)N | C11H12Cl2N2O2
